US04902685
2-Amino-5,6,7,8-tetrahydro-3-quinoxalinecarbonitrile
To a mixture of 33 g (0.1324 mol) of (O-p-tosylisonitroso)-malononitrile, 300 ml of tetrahydrofuran, and 11 ml (0.136 mol) of pyridine at -35° C. is added portionwise a mixture of 20 g (0.1322 mol) of 1-(pyrrolidino)-1-cyclohexene and 300 ml of tetrahydrofuran. After 2 hrs., the reaction mixture is allowed to warm to 0° C. for 30 min. To the reaction mixture at 0° C. is added 300 ml of a saturated solution of ammonia in methanol. The reaction mixture is stirred at ambient temperature overnight, then diluted with water, and extracted with methylene chloride. The combined extracts are dried (Na2SO4), and concentrated in vacuo to give an oily solid. Trituration with ethanol furnishes 4.7 g (20%) of title compound. Recrystallization from ethanol provides an analytical sample: m.p. 200°-202° C.; IR (KBr) 3400, 3340, 3200, 2240, 1665, and 1580 cm-1 ; NMR (DMSO-d6) δ 6.90 (br-s, 2H), exchangeable), 2.85-2.55 (m, 4H), and 1.90-1.55 (m, 4H).

reactant | (O-p-tosylisonitroso)-malononitrile | 0.1324 mol, 33 g | CC1=CC=C(C=C1)S(=O)(=O)ON=C(C#N)C#N | C10H7N3O3S
reactant | pyridine | 0.136 mol, 11 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(pyrrolidino)-1-cyclohexene | 0.1322 mol, 20 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-Amino-5,6,7,8-tetrahydro-3-quinoxalinecarbonitrile | 4.7 g, 20% | NC1=NC=2CCCCC2N=C1C#N | C9H10N4
